US06133258
The reaction procedure of Example 106 was followed except that 1.0 g of 2-chloronicotinic acid, 10 ml of thionyl chloride, 531 mg of ammonium thiocyanate and 642 mg of 4-hydroxypiperidine were used. The product was subjected to separation through silica gel column chromatography (eluant: 50:1:0.1 mixture of chloroform, methanol and aqueous ammonia), and then crystallized from isopropanol to obtain 320 mg of 2-(4-hydroxypiperidino)-4H-pyrido[3,2-e]-1,3-thiazin-4-one.

reactant | 2-chloronicotinic acid | 1.0 g | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | ammonium thiocyanate | 531 mg | [S-]C#N.[NH4+]
reactant | 4-hydroxypiperidine | 642 mg | OC1CCNCC1 | C5H11NO
solvent | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-(4-hydroxypiperidino)-4H-pyrido[3,2-e]-1,3-thiazin-4-one | 320 mg | OC1CCN(CC1)C=1SC2=C(C(N1)=O)C=CC=N2 | C12H13N3O2S
